US04474785
20 ml (0.26 mole) of dimethylformamide are added dropwise, while stirring, to 120 g (0.9 mole) of anhydrous aluminum chloride in the course of a few minutes, whereupon a highly exothermic reaction starts. A mixture of 11.8 g (0.089 mole) of indolin-2-one and 11.3 g (0.09 mole) of cyclobutanedicarboxylic acid anhydride is then added a little at a time at 140° C., and stirring is continued at 140° C. and for 10 minutes. The melt is now poured onto 0.5 kg of ice, the solid precipitate is filtered off with suction and the aqueous phase is extracted several times with ethyl acetate to give 21.7 g (93.6%) of cis-2-(indolin-2-on-5-oyl)cyclobutanecarboxylic acid of melting point 211°-212° C.

reactant | dimethylformamide | 0.26 mole, 20 ml | CN(C=O)C | C3H7NO
reactant | aluminum chloride | 0.9 mole, 120 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | indolin-2-one | 0.089 mole, 11.8 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | cyclobutanedicarboxylic acid anhydride | 0.09 mole, 11.3 g | C12(CCC1)C(=O)OC2=O | C6H6O3
product | cis-2-(indolin-2-on-5-oyl)cyclobutanecarboxylic acid | 21.7 g, 93.6% | N1C(CC2=CC(=CC=C12)C(=O)[C@@H]1[C@@H](CC1)C(=O)O)=O | C14H13NO4
